US08080580B2
To a solution of crude 4-(5-bromo-2-chlorobenzyl)phenol (3.0 g, 10 mmol) and cesium carbonate (4.9 g, 15 mmol) in N,N-dimethylformamide (77.5 mL) at room temperature was added a solution of toluene-4-sulfonic acid oxetan-3-yl ester (3.5 g, 15 mmol) in N,N-dimethylformamide (8 mL). The mixture was heated to 65° C. for 22 hours whereupon an additional aliquot of cesium carbonate (3.3 g, 10 mmol) was added. The reaction mixture was stirred for a further 12 hours at 120° C., cooled to room temperature whereupon water and ethyl acetate were added and the mixture was carefully acidified with 1N aqueous hydrochloric acid solution. The organic layer was separated, washed with brine (3 times), and concentrated in vacuo. Purification via Biotage MPLC (silica gel, eluting with a gradient of 0 to 25% ethyl acetate in heptane) afforded 3-(4-(5-bromo-2-chlorobenzyl)phenoxy)oxetane (2.5 g, 70% yield) as a white solid.

reactant | 4-(5-bromo-2-chlorobenzyl)phenol | 10 mmol, 3.0 g | BrC=1C=CC(=C(CC2=CC=C(C=C2)O)C1)Cl | C13H10BrClO
reactant | cesium carbonate | 15 mmol, 4.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene-4-sulfonic acid oxetan-3-yl ester | 15 mmol, 3.5 g | O1CC(C1)OS(=O)(=O)C1=CC=C(C=C1)C | C10H12O4S
reactant | cesium carbonate | 10 mmol, 3.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 77.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(4-(5-bromo-2-chlorobenzyl)phenoxy)oxetane | 2.5 g, 70% yield | BrC=1C=CC(=C(CC2=CC=C(OC3COC3)C=C2)C1)Cl | C16H14BrClO2
